US07319098B2
Synthesis of 4-(2-{[2-(3-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-ethyl)-4-morpholinium chloride (Compound 85)
2-(3-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid (100 mg, 0.316 mmol) and 2-morpholinoethane amine (103 μL, 0.792 mmol) were reacted with each other. Target compound in the amount of 59 mg (40%) was obtained by following the procedure described in Example 1.

reactant | 2-(3-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid | 0.316 mmol, 100 mg | ClC=1C=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C=CC1 | C16H10ClNO4
reactant | 2-morpholinoethane amine | 0.792 mmol, 103 μL | O1CCN(CC1)CCN | C6H14N2O
product | 4-(2-{[2-(3-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-ethyl)-4-morpholinium chloride | [Cl-].ClC=1C=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)NCC[NH+]2CCOCC2)=O)C=CC1 | InChI=1S/C22H22ClN3O4.ClH/c23-17-3-1-2-15(12-17)14-26-21(28)18-5-4-16(13-19(18)22(26)29)20(27)24-6-7-25-8-10-30-11-9-25;/h1-5,12-13H,6-11,14H2,(H,24,27);1H
